US08865726B2
To a solution of (S)-2-amino-2-(4-fluorophenyl)ethanol hydrochloride (2.0 g, 10 mmol) in water (50 mL) cooled to 0° C. was added potassium hydroxide (3.5 g, 63 mmol) followed by THF (50 mL) and the reaction was stirred for 20 minutes at 0° C. Bis(trichloromethyl) carbonate (3.1 g, 10 mmol) was added as a solid and the reaction was stirred at 0° C. for 2 hours. The reaction was poured into ethyl acetate (200 mL) and the organic layer was washed with HCl (1N, 30 mL), NaOH (1N, 30 mL) and brine (30 mL), dried over MgSO4 and concentrated under vacuum to give (S)-4-(4-fluorophenyl)oxazolidin-2-one (1 g, 53%).

reactant | (S)-2-amino-2-(4-fluorophenyl)ethanol hydrochloride | 10 mmol, 2.0 g | Cl.N[C@H](CO)C1=CC=C(C=C1)F
reactant | potassium hydroxide | 63 mmol, 3.5 g | [OH-].[K+]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | Bis(trichloromethyl) carbonate | 10 mmol, 3.1 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (S)-4-(4-fluorophenyl)oxazolidin-2-one | 1 g, 53% | FC1=CC=C(C=C1)[C@@H]1NC(OC1)=O | C9H8FNO2
